Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ with untreated multiple myeloma presenting
from outpatient oncology appointment with 6 months DOE found to
be tachycardic and hypoxic on ambulation, so was referred to ED
for r/o PE. Due to her light chain myeloma, CTA is
contraindicated and must receive V/Q scan. She reports DOE for 6
months, gets SOB climbing one flight of stairs. She has
occasional pleuritic R sided chest pain. No cough/hemoptysis. No
calf swelling. No history of blood clots. Not on blood thinners.
Took a 3 hour flight yesterday from ___, no other prolonged
trips.

She also reports that her left hand gets "numb" when holding
objects for a long period of time. She also reports that her b/l
___ have been more swollen recently.

In the ED, troponin negative, CXR with no e/o pna, and BNP of
446. Unable to get CTPA d/t MM. 

She is concerned about a 30 pound weight loss over the past few
months, and has been drinking protein shakes to maintain her
weight. 

She also states she has "chronic tachycardia" which has not been
worked up in the past, and for which she does not take any
medications. 

On arrival to the floor, she is in no acute distress and
ambulating with no difficulty, though her HR does increase upon
ambulation. 

REVIEW OF SYSTEMS: Negative for fevers/chills, night sweats,
headache, change in vision, difficulty swallowing, swelling in
neck or armpits, chest pain, palpitations, cough, nausea,
vomiting, abdominal pain, diarrhea, constipation, black or 
bloody
stools, difficulty urinating or increased frequency
 
Past Medical History:
ONCOLOGIC HISTORY: (Per fellow note) 
She presented to Dr. ___ of ___ on 
___
for progressive anemia dating back to at least ___ years, which
was treated with B12. CBC at that point revealed a hemoglobin of
10.7. She then had a repeat Hgb in ___ by Dr. 
___ PCP, and it was around 7.5. She also had a h/o a rib 
fracture
and a 30 pound wt loss over ___ years. 

At Dr. ___, she had a Hgb of 6.7, nl creatinine,
Calcium 9.5, Albumin of 4.9, nl LFTs. Quantitative Igs revealed 
a
IgG of 546 and IgA of 18 and IgM of 82. She had an M-spike, 
Kappa
light chain of ___hain of 7.40 and ratio of
935.54.

Given that these findings were highly suspicious for MM, a Bone
marrow biopsy was performed on ___ revealed a mildly
hypercellular bone marrow (50%) with involvement by plasma cell
myeloma, kappa positive, approximately 80-90% of total
cellularity with minimal residual trilineage hematopoiesis. No
amyloid deposition is seen. Negative ___ red stain. Flow
cytometry demonstrated a monoclonal kappa plasma cell 
population.
There was no phenotypic evidence of abnormal myeloid maturation,
increased blasts or lymphoproliferative disorder. Cytogenetics
revealed a hyper diploid clone with 13q deletion. 
The same day of the BMBx she received a blood transfusion. 

PET CT on ___ showed no suspicious metabolic activity within
the chest, abdomen, pelvis. 

Skeletal survey from ___ showed multiple small lucencies
throughout the skeleton suspicious for myeloma. 

On ___ received an injection of Prolia. 

PAST MEDICAL HISTORY:
Osteoporosis
B12 Deficiency
Bells Palsy historic 
Emphysema - Mild

Appendectomy
Tonsillectomy
Cholecystectomy ___
tubal ligation
hemorrhoidectomy
 
Social History:
___
Family History:
Siblings: Sister breast cancer ___ years ago s/p mastectomy
Mother: ___ disease; died at ___ of old age
Father: Lung cancer and stomach cancer: developed at ___
Aunts: No known history of cancer or blood disorders
Uncles: No known history of cancer or blood disorders
Maternal Grandmother: No known history of cancer or blood
disorders
Maternal Grandfather: No known history of cancer or blood
disorders
Paternal Grandmother: No known history of cancer or blood
disorders
Paternal Grandfather: No known history of cancer or blood
disorders
Children: No known history of cancer or blood disorders
 
Physical Exam:
VS: 98.2 124/67 82 18 98RA
GENERAL: Pleasant and cooperative, cachetic appearing
PSYCH: Alert and appropriately conversational, full affect
HEENT: sclera anicteric, conjunctiva pink
CV: S1, S2, RRR, no m/r/g
CHEST: CTAB, normal WOB
ABDOMEN: S, NT, ND, BS+, spleen not palpable, liver not enlarged
BACK: no spinal or cva tenderness
EXTREMITIES: WWP, trace edema of b/l ___: rises easily from chair, Normal gait and stance
LYMPH: No cervical, axillary, or inguinal LAD
 
Pertinent Results:
V/Q scan (___):
IMPRESSION:  Normal lung scan.

___ dopplers (___):
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

ADMISSION LABS:
___ 02:00PM BLOOD WBC-5.1 RBC-3.16* Hgb-9.2* Hct-29.7* 
MCV-94 MCH-29.1 MCHC-31.0* RDW-19.2* RDWSD-66.2* Plt Ct-93*
___ 02:00PM BLOOD Plt Smr-LOW Plt Ct-93*
___ 02:00PM BLOOD UreaN-26* Creat-0.9 Na-141 K-5.0 Cl-105 
HCO3-28 AnGap-13
___ 02:00PM BLOOD ALT-36 AST-28 LD(LDH)-199 AlkPhos-132* 
TotBili-0.4
___ 07:15PM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD TotProt-6.2* Calcium-9.1
___ 02:00PM BLOOD PEP-HYPOGAMMAG FreeKap-PND FreeLam-PND 
b2micro-5.3* IgG-575* IgA-18* IgM-82

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-4.2 RBC-2.68* Hgb-7.8* Hct-24.7* 
MCV-92 MCH-29.1 MCHC-31.6* RDW-19.4* RDWSD-65.9* Plt Ct-78*
___ 06:30AM BLOOD Glucose-83 UreaN-24* Creat-0.7 Na-140 
K-4.7 Cl-109* HCO3-23 AnGap-___ year-old female with a history of mild emphysema, 
osteoporosis, and stage III multiple myeloma pending induction 
therapy who was sent from ___ clinic due to tachycardia, 
SOB and hypoxia.

# Dyspnea on exertion, tachycardia,
# Subacute anemia due to multiple myeloma:
Given her history of recent air travel, her hematologist was 
concerned for possible PE. Due to her multiple myeloma it was 
felt that a CTA was contraindicated as it would be preferred to 
avoid CT contrast. Patient underwent ___ dopplers as well as V/Q 
scan that was normal. More likely, patient's shortness of breath 
is due to her recently diagnosed multiple myeloma. Her hgb on 
the day of discharge was 7.8. Per the recommendation of the ___ 
attending, it was recommended that the patient receive one unit 
of PRBCs prior to discharged, which she did.

# Multiple Myeloma 
Patient came to ___ for a second opinion only and is going to 
___ for a third opinion on ___. However, she does not wish to 
get her chemotherapy in ___ at the moment due to a distrust 
of physicians there. She will attempt to get an appointment 
there within the next week, but if not she will return to clinic 
at ___ on ___. She has been scheduled for 
treatment to begin that day, but she will call if she plans to 
return to ___ instead.

TRANSITIONAL ISSUES:
[ ] Patient needs to start chemo within the next 1 week. She is 
scheduled to do so at ___
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Shortness of breath
Anemia
Multiple myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you. You were admitted from the 
___ clinic because of shortness of breath and 
concern for possible pulmonary embolism.

We performed a test called a V/Q scan, which showed that you do 
NOT have a pulmonary embolism. It is more likely that your 
shortness of breath is coming from other causes, such as your 
anemia. You received 1 unit of red blood cells to help improve 
your anemia.

We would recommend that you also have a echocardiogram 
(ultrasound of the heart) when you return home to ___.

You are currently scheduled to be seen in the ___ clinic for 
treatment of your multiple myeloma on ___. If you 
are able to get an appointment with a multiple myeloma 
specialist in ___ for treatment starting next week, then you 
may cancel that appointment. If not, we recommend you come to 
___ to begin treatment and then find a physician in ___ 
for care after that.

If you have significant worsening of your symptoms, please 
return to the hospital for further care. Good luck with your 
continued medical care.

Sincerely,
___, MD
 
Followup Instructions:
___